US05028610
A mixture of 300 mg of 1-[bis(4-fluorophenyl)methyl]-3-methylpiperazine and 252 mg of N-(2,4,6-trimethylphenyl) chloroacetamide was dissolved in 20 ml of a 1:1 by volume mixture of tetrahydrofuran and N,N-dimethylformamide. 100 mg of anhydrous potassium carbonate were then added to the solution, and the reaction mixture was stirred at 70° C. for 3 hours, after which ethyl acetate was added to it and the organic layer was separated. The organic layer was washed three times with water, and then dried over anhydrous magnesium sulfate. The solvent was then removed by evaporation under reduced pressure, and the residue was subjected to silica gel thin layer chromatography using a 1:1 by volume mixture of cyclohexane and ethyl acetate as the developing solvent, to afford a purified 1-[bis(4-fluorophenyl)methyl]-4-[(2,4,6-trimethylphenyl)carbamoylmethyl]-3-methylpiperazine.

reactant | 1-[bis(4-fluorophenyl)methyl]-3-methylpiperazine | 300 mg | FC1=CC=C(C=C1)C(N1CC(NCC1)C)C1=CC=C(C=C1)F | C18H20F2N2
reactant | N-(2,4,6-trimethylphenyl) chloroacetamide | 252 mg | CC1=C(C(=CC(=C1)C)C)NC(CCl)=O | C11H14ClNO
reactant | potassium carbonate | 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[bis(4-fluorophenyl)methyl]-4-[(2,4,6-trimethylphenyl)carbamoylmethyl]-3-methylpiperazine | FC1=CC=C(C=C1)C(N1CC(N(CC1)CC(NC1=C(C=C(C=C1C)C)C)=O)C)C1=CC=C(C=C1)F | C29H33F2N3O
